US06096735
To a mixture of conc. hydrochloric acid (30 ml) and glacial acetic acid (10 ml) is added 2-(4-phenyl-2-n-propylphenyl)-4,4-dimethyl-2-oxazoline (2.70 g), and the mixture is refluxed for three days (nine hours×3). The reaction solution is concentrated to about half volume thereof under reduced pressure, and cooled over an ice-bath. The precipitated crystals are collected by filtration, and purified by silica gel column chromatography (solvent; dichloromethane→dichloromethane:methanol=50:1). The desired fractions are combined, evaporated to remove the solvent, and the crystalline residue is recrystallized from n-hexane to give 4-phenyl-2-n-propylbenzoic acid (1.67 g) as colorless needles.

reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | 2-(4-phenyl-2-n-propylphenyl)-4,4-dimethyl-2-oxazoline | 2.70 g | C1(=CC=CC=C1)C1=CC(=C(C=C1)C=1OCC(N1)(C)C)CCC | C20H23NO
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 4-phenyl-2-n-propylbenzoic acid | 1.67 g | C1(=CC=CC=C1)C1=CC(=C(C(=O)O)C=C1)CCC | C16H16O2
